US04146715
2-Amino-9-(2-hydroxyethoxymethyl)adenine (0.25g) was dissolved in hot ethanol (50ml) and the solution cooled in an ice bath. To the cool solution was added sufficient HCl-saturated ethanol to give a pH of 1.0. Dry ether (50ml) was then added and the mixture thoroughly chilled. The resulting flesh-colored solid was removed by filtration and washed with cold ethanol. Recrystallization from methanol yielded 2-amino-9-(2-hydroxyethoxymethyl)adenine hydrochloride (0.21g., 74% of theoretical), m.p. 207°-211° C. Elemental analysis and NMR support this structure.

reactant | 2-Amino-9-(2-hydroxyethoxymethyl)adenine | 0.25g | NC1=NC(=C2N=CN(C2=N1)COCCO)N | C8H12N6O2
reactant | HCl | Cl | ClH
reactant | ether | 50ml | CCOCC | C4H10O
solvent | ethanol | 50ml | C(C)O | C2H6O
product | 2-amino-9-(2-hydroxyethoxymethyl)adenine hydrochloride | 0.21g, 74% | Cl.NC1=NC(=C2N=CN(C2=N1)COCCO)N | InChI=1S/C8H12N6O2.ClH/c9-6-5-7(13-8(10)12-6)14(3-11-5)4-16-2-1-15;/h3,15H,1-2,4H2,(H4,9,10,12,13);1H
